US04959092
1-{3-[(3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-yl)ethyloxy]phenyl}-3,3-dimethylurea
1.8 g of 1-(3-hydroxyphenyl)-3,3-dimethylurea was dissolved into 20 ml of dried N,N-dimethylformamide, and 0.4 g of 60% sodium hydride was added thereto. After the mixture was stirred for 15 minutes, 3.6 g of 3-[(3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-yl)ethyl]-p-toluene sulfonate was added dropwise thereto under cooling with ice. After the mixture was stirred at room temperature for 5 hours, it was poured into iced water and extracted with ethyl acetate. After the organic layer was washed with water, it was dried over anhydrous sodium sulfate and ethyl acetate was distilled off. The residue was purified by silica gel column chromatography using n-hexane/ethyl acetate (1/1) as a developer to obtain 2.4 g of Compound No. 94 shown in Table 5.

reactant | 1-(3-hydroxyphenyl)-3,3-dimethylurea | 1.8 g | OC=1C=C(C=CC1)NC(=O)N(C)C | C9H12N2O2
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | 3-[(3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-yl)ethyl]-p-toluene sulfonate | 3.6 g | CC1(OC2=C(CC1)C=C(C=C2)CCC=2C=C(C=CC2S(=O)(=O)[O-])C)C
solvent | water | O | H2O
product | 1-{3-[(3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-yl)ethyloxy]phenyl}-3,3-dimethylurea | 2.4 g | CC1(OC2=C(CC1)C=C(C=C2)CCOC=2C=C(C=CC2)NC(=O)N(C)C)C | C22H28N2O3
